US07378420B2
A. Synthesis of (S)-tert-butyl 2-(4-benzylpiperazine-1-carbonyl)pyrrolidine-1-carboxylate
A solution of N-Boc-L-proline 0.645 g (3 mmol), 1-benzylpiperazine 0.528 g (3 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) 1.152 g (6 mmol) and catalytic amount of 4-(dimethylamino) pyridine in methylene chloride (50 ml) was stirred at room temperature overnight. The reaction mixture was concentrated and applied to flash column chromatography using methylene chloride and methanol (100:5) as eluents to give 1.01 g of desired product in 90% yield.

reactant | N-Boc-L-proline | 3 mmol, 0.645 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-benzylpiperazine | 3 mmol, 0.528 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6 mmol, 1.152 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-(dimethylamino) pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 2-(4-benzylpiperazine-1-carbonyl)pyrrolidine-1-carboxylate | 1.01 g, 90% yield | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H31N3O3
